US04642308
The procedure is similar to that described in Example 4, but starting with 2-amino-7-chloro-1,8-naphthyridine (17.9 g), 3-hydroxypyridine (38 g) and potassium hydroxide pellets (11,2 g; 85% purity). The product produced by precipitation in water and extraction with ethyl acetate (4.7 g) is dissolved in boiling ethyl acetate (80 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethyl ether (2×5 cc) and dried in the air at 20° C. 2-Amino-7-(3-pyridyl)oxy-1,8-naphthyridine (2.1 g) is produced, m.p. 178° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 3-hydroxypyridine | 38 g | OC=1C=NC=CC1 | C5H5NO
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 2-Amino-7-(3-pyridyl)oxy-1,8-naphthyridine | 2.1 g | NC1=NC2=NC(=CC=C2C=C1)OC=1C=NC=CC1 | C13H10N4O
